US09163021B2
Trifluoromethanesulfonic acid oxetan-3-yl ester
To a solution of oxetan-3-ol (3 g, 41 mmol) and pyridine (4.97 mL, 61.5 mmol) in DCM (150 mL) was added trifluoromethanesulfonic anhydride slowly dropwise at −50° C., and the reaction was stirred at −30° C. for 2 hours. The reaction was quenched by the addition of aqueous 1N HCl solution (50 mL) and the mixture extracted with DCM (100 mL) thrice. The combined organic layers were dried over MgSO4 and concentrated in vacuo to afford the title compound as a yellow oil.

reactant | oxetan-3-ol | 41 mmol, 3 g | O1CC(C1)O | C3H6O2
reactant | pyridine | 61.5 mmol, 4.97 mL | N1=CC=CC=C1 | C5H5N
reactant | trifluoromethanesulfonic anhydride | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | DCM | 150 mL | C(Cl)Cl | CH2Cl2
product | Trifluoromethanesulfonic acid oxetan-3-yl ester | O1CC(C1)OS(=O)(=O)C(F)(F)F | C4H5F3O4S
